.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' statistical
.temp 27
.param sw_stat_mismatch=1
.option seed=10
* ox-alpha OTA -- 5T NMOS-input OTA, PMOS mirror load, IBIAS-driven tail
* topology: differential pair XM1/XM2, mirror load XM3/XM4,
* tail XMTAIL mirrored from external IBIAS via diode XMBIAS
.subckt ota VDD VSS INP INN OUT IBIAS
XMBIAS IBIAS IBIAS VSS VSS nfet_03v3 W=2.0u L=2.0u nf=1
XMTAIL tail IBIAS VSS VSS nfet_03v3 W=12.0u L=4.0u nf=2
XM1 n1 INN tail VSS nfet_03v3 W=6.0u L=2.0u nf=1
XM2 OUT INP tail VSS nfet_03v3 W=6.0u L=2.0u nf=1
XM3 n1 n1 VDD VDD pfet_03v3 W=30.0u L=4.0u nf=4
XM4 OUT n1 VDD VDD pfet_03v3 W=30.0u L=4.0u nf=4
.ends
XDUT VDD VSS INP INN OUT IBIAS ota
VVDD VDD 0 3.3
VVSS VSS 0 0
VINP INP 0 DC 1.65
VINN INN 0 DC 1.65
CLOAD OUT 0 5p
IIB 0 ibias_inj DC 20u
VMON ibias_inj IBIAS 0
.control
op
print v(OUT)
quit
.endc
.end